US07718693B2
1-Ethyl-5-(hydroxymethyl)-3-(phenylmethyl)-2-pyrrolidinone (0.748 g, 3.21 mmol) was dissolved in acetonitrile (5 ml) and a 1M aqueous sodium phosphate monobasic buffer solution (3.69 ml, 3.69 mmol), a few crystals of TEMPO (2,2,6,6-tetramethyl-1-piperidinyloxy free radical), and sodium chlorite (0.580 g, 6.41 mmol) were added and the mixture was warmed to 40° C. Approximately 1 drop of bleach (sodium hypochlorite solution, available chlorine >12%) was then added to the mixture and stirring continued at 40° C. for 3 hrs. The mixture was then poured onto ice-water containing 1% w/w sodium sulphite and the resulting mixture was adjusted to pH2 using 5N aqueous hydrogen chloride and then extracted with ethyl acetate (×3). The combined organic extracts were washed with saturated aqueous sodium chloride and then dried over magnesium sulphate and concentrated to give 1-ethyl-5-oxo-4-(phenylmethyl)proline (0.807 g) as a solid which was used without additional purification.

reactant | 1-Ethyl-5-(hydroxymethyl)-3-(phenylmethyl)-2-pyrrolidinone | 3.21 mmol, 0.748 g | C(C)N1C(C(CC1CO)CC1=CC=CC=C1)=O | C14H19NO2
reactant | sodium phosphate monobasic | 3.69 mmol, 1M, 3.69 ml | OP(=O)(O)[O-].[Na+]
reactant | TEMPO | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | sodium chlorite | 6.41 mmol, 0.580 g | Cl(=O)[O-].[Na+]
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | chlorine | ClCl | Cl2
reactant | sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrogen chloride | 5N | Cl | ClH
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-ethyl-5-oxo-4-(phenylmethyl)proline | 0.807 g | C(C)N1[C@H](C(=O)O)CC(C1=O)CC1=CC=CC=C1 | C14H17NO3
